US08981114B2
Preparation of (S)-2-phenyl-2-tert-butoxycarbonylaminoethylazide (1, R1=Ph)
(S)-2-Phenyl-2-tert-butoxycarbonylaminoethyl methanesulfonate (15.77 g, 0.05 mol) was dissolved in 50 mL DMF followed by the addition of sodium azide (19.5 g, 0.3 mol). The mixture was stirred for 24 hrs at 55° C., cooled to room temperature, poured into cold water (500 mL) and stirred vigorously for 20 minutes. Precipitate was collected by filtration, washed with water and dried, affording 9.97 g of the title compound as a white solid. Yield: 76%; (MH)+=263; 1H NMR (DMSO-d6): 1.37 (s, 9H), 3.36-3.50 (m, 2H), 4.69-4.75 (m, 1H), 7.23-7.36 (m, 5H), 7.65-7.68 (d, J=9.2 Hz, 1H).

reactant | (S)-2-Phenyl-2-tert-butoxycarbonylaminoethyl methanesulfonate | 0.05 mol, 15.77 g | CS(=O)(=O)OC[C@@H](NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C14H21NO5S
reactant | sodium azide | 0.3 mol, 19.5 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 500 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (S)-2-phenyl-2-tert-butoxycarbonylaminoethylazide | 9.97 g, Yield: 76% | C1(=CC=CC=C1)[C@@H](CN=[N+]=[N-])NC(=O)OC(C)(C)C | C13H18N4O2
